US07749992B2
Step 3. Preparation of 2-[tert-Butoxycarbonyl-(3-methoxycarbonyl-propyl)-amino]-5-trifluoromethyl-benzoic acid methyl ester
Add 50 mL of DMF to a mixture of methyl-3-trifluoromethyl-2-t-butoxycarbonylaminobenzoate (3.0 g, 9.4 mmol) and methyl 4-bromobutyrate (2.6 g, 14.1 mmol) under an atmosphere of nitrogen. To this, add cesium carbonate (9.2 g, 28.2 mmol) and heat the suspension to 60° C. for 6 h then cool to room temperature. Dilute the reaction with water (200 mL) and ethyl acetate (300 mL). Separate the organic phase and wash with water (100 mL) followed by brine (100 mL). Dry the organics over sodium sulfate, filter, and remove solvent under vacuum. Chromatograph the reaction over silica gel using ethyl acetate/hexane (0-10%) to elute. This provides the title compound as an oil (3.8 g, 97%): H NMR (CDCl3, 400 MHz) δ 1.33 (s, 6H), 1.54 (s, 3H), 1.97 (bm, 2H), 2.41 (bt, J=7.2 Hz, 2H), 3.56-3.85 (m, 5H), 3.94 (bs, 3H), 7.40 (bt, J=8.0 Hz, 1H), 7.78 (dd, J=2.0, 8.0 Hz, 1H), 8.19 (bs, 1H).

reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
reactant | methyl-3-trifluoromethyl-2-t-butoxycarbonylaminobenzoate | 9.4 mmol, 3.0 g | COC(C1=C(C(=CC=C1)C(F)(F)F)NC(=O)OC(C)(C)C)=O | C14H16F3NO4
reactant | methyl 4-bromobutyrate | 14.1 mmol, 2.6 g | BrCCCC(=O)OC | C5H9BrO2
reactant | cesium carbonate | 28.2 mmol, 9.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 200 mL | O | H2O
product | 2-[tert-Butoxycarbonyl-(3-methoxycarbonyl-propyl)-amino]-5-trifluoromethyl-benzoic acid methyl ester | 3.8 g, 97% | COC(C1=C(C=CC(=C1)C(F)(F)F)N(CCCC(=O)OC)C(=O)OC(C)(C)C)=O | C19H24F3NO6
